US04797399
A mixture of 5-chloro-3-[(4-amino-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone (0.85 g), anhydrous potassium carbonate (430 mg), dichloromethane (40 ml), dioxane (10 ml) and ethyl chloroformate (339 mg) was stirred for 1.5 hours at room temperature. The insoluble materials were filtered off and the filtrate was concentrated under reduced pressure. The residue was recrystallized from a mixture of chloroform and dioxane to give colorless crystals of 5-chloro-3-[(4-ethoxycarbonylamino-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone (0.35 g).

reactant | 5-chloro-3-[(4-amino-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone | 0.85 g | ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N2CCN(CC2)N)C1 | C13H15ClN4O2S
reactant | potassium carbonate | 430 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | 40 ml | ClCCl | CH2Cl2
reactant | ethyl chloroformate | 339 mg | ClC(=O)OCC | C3H5ClO2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 5-chloro-3-[(4-ethoxycarbonylamino-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone | 0.35 g | ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N2CCN(CC2)NC(=O)OCC)C1 | C16H19ClN4O4S
